US04608379
1-Dodecyl-2-methylpyridinium bromide (2.3 g, 0.0067 mole) and 4-piperidinobenzaldehyde (1.27 g, 0.0067 mole) were refluxed in methanol (20 ml) in the presence of piperdine (0.1 ml) under nitrogen for three hours. The solution was cooled and addition of ether gave a crystalline solid which was collected giving 1-dodecyl-2-[(4-piperidino)styryl]pyridinium bromide (0.85 g), melting point 203°-205° C.

reactant | 1-Dodecyl-2-methylpyridinium bromide | 0.0067 mole, 2.3 g | [Br-].C(CCCCCCCCCCC)[N+]1=C(C=CC=C1)C
reactant | 4-piperidinobenzaldehyde | 0.0067 mole, 1.27 g | N1(CCCCC1)C1=CC=C(C=O)C=C1 | C12H15NO
reactant | piperdine | 0.1 ml | N1CCCCC1 | C5H11N
reactant | ether | CCOCC | C4H10O
solvent | methanol | 20 ml | CO | CH4O
product | 1-dodecyl-2-[(4-piperidino)styryl]pyridinium bromide | 0.85 g | [Br-].C(CCCCCCCCCCC)[N+]1=C(C=CC=C1)C=CC1=CC=C(C=C1)N1CCCCC1 | InChI=1S/C30H45N2.BrH/c1-2-3-4-5-6-7-8-9-10-13-24-31-27-16-12-17-29(31)21-18-28-19-22-30(23-20-28)32-25-14-11-15-26-32;/h12,16-23,27H,2-11,13-15,24-26H2,1H3;1H/q+1;/p-1
